Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
inability to respond to questions
 
Major Surgical or Invasive Procedure:
(IV tPA administration at OSH)
PEG placement on ___

 
History of Present Illness:
The pt is a ___ year old right-handed female history of a.fib
off coumadin, and HTN, who presents from an outside hospital 
with
a likely MCA stroke after being given tPA at ___ and
transferred here for possible intra-arterial intervention.

The patient was at home with her husband returning from a
___ dinner.  They went to bed at 21:30.  At around 
22:15
the husband was ___ by a gurgling sound coming from his wife. 

He looked over and asked her questions but she was unable to
respond.  Her daughter came over and noted that her face was
asymmetric, but could not remember which side.  She also noted
that the patient did not appear to comprehend.  EMS arrived on
22:50, and she was taken to ___.  She had a CT, 
which
was reportedly read as normal (but on our read here has a
hyperdense MCA) and she was noted to have global aphasia, right
sided weakness and left gaze deviation.  He put the ___ scale at
least 16 but he was not able to do a full scale secondary to
aphasia.  She was bolused with tpA at 23:50 and started on the
infusion.  She had finished the infusion by the time she arrived
at ___.

On arrival the patient was initial not responsive to voice and
commands per ED team.  On arrival the patient was able to open
her eye to sternal rub, was spontaneously moving the left arm 
and
had a leftward gaze deviation.  The patient was globally 
aphasic,
with no comprehension, and was not following commands.  She was
intubated for airway protection.  She then had a CTA/P, and it
was noted that there were new hemorrhages on the CT, and any
further intervention was deferred.
  

___ Stroke Scale score was 32:  
1a. Level of Consciousness: 2  
1b. LOC Question: 2  
1c. LOC Commands: 2  
2. Best gaze: 2 
3. Visual fields: 2  
4. Facial palsy: 2  
5a. Motor arm, left: 3  
5b. Motor arm, right: 3  
6a. Motor leg, left: 3  
6b. Motor leg, right: 3  
7. Limb Ataxia: 0  
8. Sensory: 1  
9. Language: 3  
10. Dysarthria: 2  
11. Extinction and Neglect: 2
 
On neuro ROS, per family the patient had not complained of a
headache.  They noted that she had an episode of right leg
weakness 3 days prior which seemed to resolve on its own.  She
had chronic back pain, and had some mild difficult walking at
baseline.   No  No bowel or bladder incontinence or retention.
 
On general review of systems, the family did not believe there
were any recent fever or chills, or infectious symptoms.  No
cough/SOB, chest pain.  No N/V.
 

 
Past Medical History:
- Atrial Fib, was on coumadin for 2 weeks ~ ___ year prior but per
family cardiologist stopped it for unknown reason
- HTN
- Sciatica

 
Social History:
___
Family History:
Multiple members of family with stroke and CAD.  
 

 
Physical Exam:
Exam on admission:

Physical Exam: (done pre-intubation)
Vitals: T:98.3  P:134  R: 16  BP:114/112  SaO2:100% 
General: Opens eyes to nox stim, does not follow commands
HEENT: NC/AT, no scleral icterus noted,
Neck: Supple, 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: ___ and ___, slight flow murmur heard
Abdomen: soft, NT/ND, normoactive bowel sounds 
Extremities: No C/C/E bilaterally,  
Skin: no rashes, mild bruising on legs bilaterally 
 
Neurologic: 
-Mental Status: Will open eyes to loud voice and nox 
stimulation.
Completely mute, does not follow commands.  Does not appear to
attend to R side

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2.5mm and brisk.  Appears to have right field cut 

III, IV, VI: Left ward gaze deviation, eyes do not cross midline
to right
V: did not test
VII: R facial droop, 
VIII: Not tested  
IX, X: Gag intact  
XI: not tested  
XII: not tested
 
-Motor: Normal bulk, slight decreased tone on right.  Patient 
was
moving left arm and leg spontaneously, not moving right.  Small
amount of movement on right leg elicited with nox stim, trace
movement on right arm with nox stim

-Sensory: Sensation to pain intact at all 4 extremities
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  3  3    2    3   2 
R  3  3    2    3   3 
Toes, upgoing bilaterally, more on R

Did not test coordination and gait.
 

 
Pertinent Results:
Labs on admission:

___ 01:20AM BLOOD WBC-12.7* RBC-4.41 Hgb-13.7 Hct-39.7 
MCV-90 MCH-31.1 MCHC-34.5 RDW-14.8 Plt ___
___ 02:18AM BLOOD WBC-10.9 RBC-4.12* Hgb-12.8 Hct-38.0 
MCV-92 MCH-31.0 MCHC-33.6 RDW-14.5 Plt ___

___ 01:20AM BLOOD ___ PTT-31.9 ___

___ 01:20AM BLOOD Glucose-152* UreaN-28* Creat-0.8 Na-143 
K-4.3 Cl-
107 HCO3-24 AnGap-16

___ 07:25AM BLOOD Na-139

___ 01:47AM BLOOD Glucose-121* UreaN-19 Creat-0.8 Na-139 
K-3.8 Cl-105 HCO3-27 AnGap-11

___ 02:18AM BLOOD Calcium-7.6* Phos-2.3* Mg-1.7
___ 04:48PM BLOOD Calcium-8.6 Phos-2.6* Mg-2.3

___ 06:22PM BLOOD Osmolal-296
___ 07:11AM BLOOD Osmolal-294
___ 09:13AM BLOOD Osmolal-300
___ 07:25AM BLOOD Osmolal-304

Imaging:

CTA/P of head ___:

IMPRESSION: 
  
1. Findings consistent with an acute left MCA infarct, with loss 
of gray- 
white matter differentiation in the left middle cerebral artery 
territory, 
including the insular region and left basal ganglia. There is 
thrombus in the supraclinoid segment of the left internal 
carotid artery extending into the bifurcation and into the left 
middle cerebral artery. There is marked asymmetry in the flow of 
the left middle cerebral artery territory, with corresponding 
perfusion abnormalities as detailed above. 
  
2. Curvilinear hypodensity within the carotid bulb on the left, 
which may 
represent atherosclerotic disease versus an artifact. A 
dissection flap is 
considered less likely given that curvilinear hypodensity is 
localized to the carotid bulb. 
  
3. There is subarachnoid hemorrhage in the left hemisphere, new 
since the 
outside head CT from ___ done only a short time prior to the 
current 
study.  
  
4. Endotracheal tube in position. Orogastric tube incompletely 
visualized. 
  
5. Old right temporal infarct with encephalomalacia. 

CTP: Image quality is degraded by poor signal to noise. There is 

suggestion of asymmetric decreased cerebral blood volume and 
blood flow, 
without definite asymmetry on the mean transit time. This 
correlates with the asymmetry on the CTA images in terms of the 
enhancement, with the left 
decreased compared to the right. 

CTH ___

IMPRESSION: 
Unchanged acute ischemia in the left MCA territory and foci of 
subarachnoid and subdural hemorrhage 

CTH ___
IMPRESSION: 
1. Evolving left MCA distribution infarct with stable mass 
effect on the left lateral ventricle. 
2. Stable multifocal subarachnoid hemorrhage, with no new foci 
of acute 
hemorrhage. 

CTH ___:
Again seen is a large area of hypodensity within the left MCA 
territory, consistent with expected evolution of infarct. The 
degree of mass effect on the left lateral ventricle and 
overlying sulcal effacement remains unchanged. The hyperdense 
left MCA is again noted. Foci of subarachnoid hemorrhage are 
also stable in extent and resolving. No new areas of hemorrhage 
are seen. The ventricles remain stable in size. 
  
IMPRESSION: Little change since prior study with evolving left 
MCA 
distribution infarct with stable mass effect. Stable extent of 
multifocal 
subarachnoid hemorrhage with no new areas of acute hemorrhage. 
  
The study and the report were reviewed by the staff radiologist. 


___ KUB xray:
The colon is gas-filled. There are no dilated loops of small 
bowel. There is no evidence of obstruction. The side port of the 
endogastric tube is within the stomach. There is no obvious 
pneumoperitoneum, although the lack of a decubitus view limits 
assessment of pneumoperitoneum.  Degenerative changes are noted 
throughout the spine. 
  
IMPRESSION: No evidence of obstruction. 

 
Brief Hospital Course:
___ year old LEFT-handed woman with atrial fibrillation (off 
Coumadin) and HTN who presented from OSH with an MCA stroke and 
after receiving IV tPA was transferred to ___ for question of 
an intra-arterial intervention.   On initial examination she was 
noted to be globally aphasic with R sided weakness and 
hemianopia, and L
gaze deviation.  She appeared to not have improved significantly 
after IV tPA and in the ED and became drowsy, with minimal eye 
opening to voice and sternal rub. She was eventually intubated 
for airway protection.  

On follow up CTA/P she was noted to have SAH in the cortical 
left frontal and left parietal lobes, felt to be due to tPA as 
well as a thrombus in the supraclinoid segment of the left ICA 
extending into the bifurcation and into the left MCA.  CT 
imaging here showed a dense MCA sign, along with a CTP showing L 
decreased BV and BF.  Due to new SAH, she was not a candidate 
for intraarterial tPA and was admitted to Neuro-ICU to complete 
post CVA care. 

NEURO. Patient's BP was maintained < 180, goal of -500 cc I/O, 
ASA and all anticoagulation were held due to concern for SAH, 
which was confirmed on a subsequent CT.  CT on ___ also showed 
mass effect due to increasing edema at the frontal horn of the 
left lateral ventricle due to evolving infarct.  At this time, 
she was started on mannitol, HOB elevation and fluid restriction 
w/ goal of -500 cc/day.  With this treatment she slowly became 
more alert and was extubated. Serial head CTs showed stable SAH 
and evolving left MCA distribution infarcts with mass effect on 
the left lateral ventricle without herniation.  

Mannitol was weaned starting on ___.  She was transferred to 
the floor an completely weaned off the mannitol.  Given the size 
of the infarct it was decided not to start her an a heparin 
drip.  Coumadin was restarted on ___ and she will be titrated 
for a goal INR of ___.  Here LDL was noted to be 111 and she was 
started on a statin at a low dose. Her blood sugar tests were 
normal.

She will be discharged to a rehab facility to continue working 
on her weakness and speech deficits.

CV. Patient remained in atrial fibrillation and had an episode 
of afib with RVR to 170s.  She was treated with diltiazem gtt 
and started on PO diltiazem in addition to atenolol (she did not 
respond to IV metoprolol).  Her final dosage of diltiazem was 
90mg QID.  She has been scheduled for outpatient cardiology 
follow up to help determine a suitable treatment for her atrial 
fibrillation.

PULM.  Patient was extubated on HD#3 without complications.  

RENAL. No issues.

GI. She was treated with famotidine and TFs.  She was noted to 
aspirate with all consistencies of nutrition thus was maintained 
on NGT and TFs.  She repeatedly failed speech and swallow 
evaluations and required the placement of a PEG feeding tube.  
This was placed on ___ without complications and tube feeds 
were started the next morning. Adjust PEG bumper in ___ days, 
with care not to over-tighten, as fat necrosis can occur 

 
Medications on Admission:
- Atenolol 50 BID
- Simvastatin 20mg QD stopped taking a few weeks prior as she
heard it can cause weakness
- Tylenol/Codiene PRN

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
2. Docusate Sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
4. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
5. Diltiazem HCl 90 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day).  
6. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical TID 
(3 times a day) as needed for apply between skin fold for yeast 
infection.  
8. Miconazole Nitrate 2 % Cream Sig: One (1) Appl Vaginal HS (at 
bedtime) for 4 days.  
9. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain.  
10. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Ipratropium Bromide 0.02 % Solution Sig: One (1) nebs 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.  
12. Warfarin 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime): 
check INR for goal of ___.  
13. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO every six 
(6) hours as needed for fever, pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___
 
Discharge Diagnosis:
Left Middle Cerebral Artery Stroke - ___

 
Discharge Condition:
MS: Globally aphasic, does not follow commands, will mimic some 
actions,
CN: R facial droop, EOM nearly intact, does not fully abbdict to 
the right, will attend to both sides but has a right sided gaze 
preference.
Motor: No spontaneous movement of R hemibody, withdraws very 
slightly at RLE, Left upper and lower extremity move 
spontaneously and do not appear to be impaired.
Sensory: grimaces to pain at all 4 ext
Gait: deferred
Coordination: could not evaluate

 
Discharge Instructions:
You were admitted as a transfer from an outside hospital for a 
large stroke of the left side of your brain.  You were initially 
seen at an outside hospital were it was determined that you had 
a large stroke of a blood vessel in your brain called the left 
middle cerebral artery.  You could not move your right side and 
could not speak or understand language.  You were given a clot 
busting agent called tPa.  You were not noted to improve 
significantly and were transferred to ___ to see if there were 
any other interventions that could be done.  At ___ a follow 
up CT scan of your brain showed that there was some small amount 
of bleeding and it was determined that it was not safe to give 
any other interventions, which could increase the bleeding.

You were transferred to the ICU, and were started on mannitol 
because of concern of swelling of your brain.  This was slowly 
weaned off and you were transfered to the floor.  You were 
weaned of the mannitol.  On the floor your exam has remained 
largely unchanged but you have occasionally been able to make an 
occasional sound.  Physical therapy was able to have you bear 
weight on your right leg.

As you were not able to swallow a PEG feeding tube has been 
placed and your were started on tube feeds.  You will be 
transfered to a rehab facility to continue to work on improving 
your strength.

Please take all medications as prescribed, please make all 
follow up appointments.  If you experience any of the symptoms 
listed below please call your doctor or return to the nearest 
emergency room.
 
Followup Instructions:
___